* Testcase 000234 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VVDD VDD 0 1.8
VVBIAS1 VBIAS1 0 0.54
VIBIAS IBIAS 0 0.9900000000000001
VVBIAS2 VBIAS2 0 0.54
VVBIAS3 VBIAS3 0 0.54

* Circuit
XM5 VDD VBIAS1 IBIAS IBIAS sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM4 VBIAS2 IBIAS VDD VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XM1 VBIAS2 VBIAS2 GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM3 VBIAS3 IBIAS VDD VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XM2 VBIAS3 VBIAS3 GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5

.control
set filetype=ascii

op
let power_dc = abs(i(VVDD)) * 1.8
let vout_dc = v(VBIAS1)
print power_dc vout_dc

quit
.endc

.end
